US04073900
A solution of 4.0 g. of m-chloroperbenzoic acid in 10 ml. of tert.-butanol is combined with 700 mg. of 17-acetoxy-11β-fluoro-1α,2α -methylene-4,6-pregnadiene-3,20-dione in 60 ml. of ethylene chloride. The solution is allowed to stand for 48 hours at room temperature, then diluted with ethyl acetate, and washed in succession with sodium bisulfite solution and water. Yield: 510 mg. of 17-acetoxy-6α,7α -epoxy-11β-fluoro-1α,2α -methylene-4-pregnene-3,20dione, which is introduced into 10 ml. of glacial acetic acid saturated with gaseous hydrogen chloride. After 22 hours, the solution is poured into ice/water. The thus-precipitated product is vacuum-filtered, washed with water, taken up in methylene chloride, and dried over sodium sulfate. The thus-produced crude 17-acetoxy-6-chloro-1α-chloromethyl-11β-fluoro-4,6-pregnadiene-3,20-dione (380 mg.) is agitated in 5 ml. of collidine for 6 hours at 140° C. After cooling, the solution is diluted with ether and washed repeatedly in succession with 2N hydrochloric acid and water. The ether phase is dried over sodium sulfate. The crude product is purified by preparative layer chromatography (system: ether/chloroform 8+2), thus obtaining 175 mg. of 17-acetoxy-6-chloro-11β-fluoro-1α,2α -methylene-4,6-pregnadiene-3,20-dione; m.p. 250°-252° C. UV: ε282 = 16,650.

reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | tert.-butanol | C(C)(C)(C)O | C4H10O
reactant | 17-acetoxy-11β-fluoro-1α,2α -methylene-4,6-pregnadiene-3,20-dione | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=CC4=CC([C@H]5[C@@H]([C@]4(C)[C@H]3[C@H](C[C@]12C)F)C5)=O | C24H29FO4
reactant | ethylene chloride | C(CCl)Cl | C2H4Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-acetoxy-6-chloro-1α-chloromethyl-11β-fluoro-4,6-pregnadiene-3,20-dione | 380 mg | C(C)(=O)O[C@]1(C(C)=O)CC[C@H]2[C@@H]3C=C(C4=CC(C[C@@H]([C@]4(C)[C@H]3[C@H](C[C@]12C)F)CCl)=O)Cl | C24H29Cl2FO4
